US07566735B2
N-{4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}-1-pyrrolidinecarboxamide
Diphenylphosphoryl azide (290 μL; 1.36 mmol) was added in one portion to a stirring mixture of 4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]benzoic acid (195 mg; 0.63 mmol) and diisopropylethylamine (220 μL; 1.29 mmol) in 1,4-dioxane (2.2 mL). The mixture was heated at reflux for 2 hours, pyrrolidine (100 μL; 1.21 mmol) was added in on portion, and the reaction heated at reflux for a further 1 hour. Concentration in vacuo, followed by column chromatography gave the title compound (38 mg; 16%).

reactant | Diphenylphosphoryl azide | 1.36 mmol, 290 μL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]benzoic acid | 0.63 mmol, 195 mg | FC(C1=NN(C=2CCCCC12)C1=CC=C(C(=O)O)C=C1)(F)F | C15H13F3N2O2
reactant | diisopropylethylamine | 1.29 mmol, 220 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | pyrrolidine | 1.21 mmol, 100 μL | N1CCCC1 | C4H9N
solvent | 1,4-dioxane | 2.2 mL | O1CCOCC1 | C4H8O2
product | N-{4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}-1-pyrrolidinecarboxamide | 38 mg, 16% | FC(C1=NN(C=2CCCCC12)C1=CC=C(C=C1)NC(=O)N1CCCC1)(F)F | C19H21F3N4O
